US05206375
A mixture of 5.4 parts of N,N-dimethyl-N'-(4-chloro-3,5-dicyanothien-2-yl)-formamidine, 40 parts of ethanol and 4.5 parts of concentrated hydrochloric acid is heated at the boil for 2 hours and filtered while hot, and the filtrate is poured into 100 parts of water. The precipitate which separates out is filtered off under suction, washed with water and dried. 3.8 g (92% of theory) of 2-amino-4-chloro-3,5-dicyanothiophene are obtained.

reactant | N,N-dimethyl-N'-(4-chloro-3,5-dicyanothien-2-yl)-formamidine | CN(C=NC=1SC(=C(C1C#N)Cl)C#N)C | C9H7ClN4S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-4-chloro-3,5-dicyanothiophene | 3.8 g, 92% | NC=1SC(=C(C1C#N)Cl)C#N | C6H2ClN3S
